US05916898
A mixture of 3-ethoxycarbonyl-8-nitro-4-oxo-3,4-dihydro-quinoline (10.2 g) and phosphorous oxychloride (10 ml) was stirred at reflux for 2 hours. The warm reaction mixture was added cautiously to a vigorously stirred mixture of ice, concentrated aqueous ammonia and chloroform. The organic layer was separated, washed with water, dried and evaporated to dryness. The residue was purified by flash chromatography on silica using chloroform as eluant to give 4-chloro-3-ethoxycarbonyl-8-nitro-quinoline in 75% yield, mp 253-254° C.

reactant | 3-ethoxycarbonyl-8-nitro-4-oxo-3,4-dihydro-quinoline | 10.2 g | C(C)OC(=O)C1C=NC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C12H10N2O5
reactant | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-3-ethoxycarbonyl-8-nitro-quinoline | 75% yield | ClC1=C(C=NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H9ClN2O4
